US05981776
Process for the preparation of methyl 3-allyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2H-1-benzofuran-6-carboxylate
A mixture of palladium bis(triphenylphosphine)diacetate (0.15 g, 0.2 mmol), tributylvinyltin (0.56 ml, 1.92 mmol) and methyl 4-iodo-3-[2-[5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl]-1-propenyloxy]benzoate (1 g, 1.99 mmol) in acetonitrile (20 ml) is heated at 80° C. for 3 days, adding tributylvinyltin (0.28 ml, 0.96 mmol) every 24 h. The reaction medium is concentrated on a rotary evaporator under vacuum at 40° C. 40 ml of water and 40 ml of ethyl ether are added. After separation of the phases by settling, the organic phase is washed twice with 40 ml of water, dried over magnesium sulphate and concentrated on a rotary evaporator under vacuum at 40° C.

reactant | tributylvinyltin | 1.92 mmol, 0.56 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | methyl 4-iodo-3-[2-[5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl]-1-propenyloxy]benzoate | 1.99 mmol, 1 g | IC1=C(C=C(C(=O)OC)C=C1)OC=C(C)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C25H29IO3
reactant | tributylvinyltin | 0.96 mmol, 0.28 ml | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 3-allyl-3-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)-2H-1-benzofuran-6-carboxylate | C(C=C)C1(COC2=C1C=CC(=C2)C(=O)OC)C2=CC=1C(CCC(C1C=C2)(C)C)(C)C | C27H32O3
